US04002652
A. 6-Nitroveratrylidene-2-diethylaminoethylamine
To a stirring, refluxing suspension of 84.4 g (0.4) of 6-nitroveratraldehyde and 1.0 ml glacial acetic acid in 750 ml ethanol was aded gradually a solution of 2-diethylaminoethylamine in 50 ml ethanol. The solution was refluxed and stirred for 1 hr; the solvents were then removed in vacuo. The residue was taken up in 300 ml chloroform; the solution was washed with three 150-ml portions of water, dried over magnesium sulfate, and concentrated to dryness in vacuo to give 123 g (100%) of the product.

reactant | 6-nitroveratraldehyde | 84.4 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Nitroveratrylidene-2-diethylaminoethylamine | 123 g, 100% | [N+](=O)([O-])C1=CC(=C(C=C1C=NCCN(CC)CC)OC)OC | C15H23N3O4
